US09278931B2
A) tert-butyl [trans-2-(4-{[(3-bromophenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate
To a solution of tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate (300 mg) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) in acetonitrile (12 mL) were added 3-bromobenzoyl chloride (191 μL) and triethylamine (202 μL). The mixture was stirred at room temperature overnight and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (407 mg).

reactant | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl]carbamate | 300 mg | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C14H20N2O2
reactant | 3-bromobenzoyl chloride | 191 μL | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | triethylamine | 202 μL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | tert-butyl [trans-2-(4-{[(3-bromophenyl)carbonyl]amino}phenyl)cyclopropyl]carbamate | 407 mg | BrC=1C=C(C=CC1)C(=O)NC1=CC=C(C=C1)[C@H]1[C@@H](C1)NC(OC(C)(C)C)=O | C21H23BrN2O3
